US07829707B2
(a) Ethyl 3-{[(5-chloro-1H-benzimidazol-2-yl)methyl]amino}-1H-pyrrole-2-carboxylate
A reaction mixture of 3-amino-1H-pyrrole-2-carboxylic acid ethyl ester (0.077 g, 0.5 mmol), NaCNBH3 (0.057 g, 0.9 mmol) and HOAc (0.030 g, 0.5 mmol) in methanol (4 mL) were stirred at r.t. for 5 minutes before 5-chloro-1H-benzimidazole-2-carbaldehyde (0.144 g, 0.8 mmol) was added, followed by addition of CH2Cl2 (1 mL) and DMF (0.4 mL). The resulting mixture was allowed to stir for 16 h at r.t. under nitrogen atmosphere. Additional 5-chloro-1H-benzimidazole-2-carbaldehyde (0.030 g) and NaCNBH3 (0.015 g) were added and the reaction mixture was stirred at 4 h. The reaction mixture was neutralized with 2M NaOH and diluted with ethyl acetate. Extracted with water and the organic layer was dried (Na2SO4) and concentrated. The crude product was purified by flash column chromatography (heptane/ethyl acetate gradient; 0 to 100% ethyl acetate), obtaining 0.074 g (46%) of the title product.

reactant | 3-amino-1H-pyrrole-2-carboxylic acid ethyl ester | 0.5 mmol, 0.077 g | C(C)OC(=O)C=1NC=CC1N | C7H10N2O2
reactant | NaCNBH3 | 0.9 mmol, 0.057 g | [BH3-]C#N.[Na+]
reactant | HOAc | 0.5 mmol, 0.030 g | CC(=O)O | C2H4O2
reactant | 5-chloro-1H-benzimidazole-2-carbaldehyde | 0.8 mmol, 0.144 g | ClC1=CC2=C(NC(=N2)C=O)C=C1 | C8H5ClN2O
reactant | 5-chloro-1H-benzimidazole-2-carbaldehyde | 0.030 g | ClC1=CC2=C(NC(=N2)C=O)C=C1 | C8H5ClN2O
reactant | NaCNBH3 | 0.015 g | [BH3-]C#N.[Na+]
reactant | NaOH | 2M | [OH-].[Na+]
solvent | methanol | 4 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 0.4 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 3-{[(5-chloro-1H-benzimidazol-2-yl)methyl]amino}-1H-pyrrole-2-carboxylate | 0.074 g, 46% | ClC1=CC2=C(NC(=N2)CNC2=C(NC=C2)C(=O)OCC)C=C1 | C15H15ClN4O2
